US04145432
A mixture of 3-nitrobenzaldehyde (4.54 g), 2-ethoxyethyl acetoacetate (5.23 g) and piperidine (85.2 mg) in benzene (15 ml) was refluxed under azeotropic dehydration for 3 hours. The resultant mixture was washed with water, an aqueous solution saturated with sodium chloride and water in turn, dried and concentrated to give an oil of 2-ethoxyethyl 2-(3-nitrobenzylidene)acetoacetate. To this oily product was added ethyl 3-amino-4,4-diethoxycrotonate (6.5 g). The mixture was heated at 110° C. for about 3 hours. The reaction mixture was dissolved in ethyl acetate and washed with water twice and dried. The solvent was removed from the mixture to give an oil (15.58 g). This oil was subjected to column chromatography on silica gel with an eluent (a mixture of 10 parts of benzene and one part of ethyl acetate by volume) to give an oily substance (8.09 g). This oily substance (0.93 g) was treated with a mixture of n-hexane and diethyl ether to give crystals, which were further recrystallized from a mixture of n-hexane and diethyl ether to give yellow granules (565.2 mg) of 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate, m.p. 99° to 100° C.

reactant | 3-nitrobenzaldehyde | 4.54 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-ethoxyethyl acetoacetate | 5.23 g | C(CC(=O)C)(=O)OCCOCC | C8H14O4
reactant | piperidine | 85.2 mg | N1CCCCC1 | C5H11N
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 2-ethoxyethyl 2-(3-nitrobenzylidene)acetoacetate | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCOCC)C(=O)C)C=CC1 | C15H17NO6
